US08710049B2
1-((1R,2R)-2-((S)-1-(5-Nitropyrimidin-2-yl)piperidin-3-ylamino)cyclohexyl)-3-phenylurea (17.5 mg, 0.031 mmol, 51.5% yield) was synthesized as described in General Procedure F using phenyl isocyanate (7.15 mg, 0.060 mmol) and (1R,2R)—N1-((S)-1-(5-nitropyrimidin-2-yl)piperidin-3-yl)cyclohexane-1,2-diamine (32.9 mg, 0.060 mmol). Anal. Calcd. for C22H29N7O3 m/z 439.5, found: 440.4 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 10.25 (br. s., 1H), 8.90 (d, J=6.60 Hz, 1H), 8.78-8.59 (m, 2H), 7.23-7.123 (m, 4H), 6.98 (t, J=6.87 Hz, 1H), 6.56 (br. s., 1H), 4.27 (d, J=12.09 Hz, 1H), 4.12-3.92 (m, 2H), 3.88-3.73 (m, 1H), 3.64 (br. s., 1H), 3.21 (br. s., 1H), 3.02-2.77 (m, 3H), 2.20-2.00 (m, 2H), 1.92 (ddd, J=7.01, 3.44, 3.30 Hz, 1H), 1.80 (d, J=10.99 Hz, 2H), 1.63 (d, J=14.29 Hz, 3H), 1.35-1.11 (m, 2H).

reactant | phenyl isocyanate | 0.060 mmol, 7.15 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (1R,2R)—N1-((S)-1-(5-nitropyrimidin-2-yl)piperidin-3-yl)cyclohexane-1,2-diamine | 0.060 mmol, 32.9 mg | [N+](=O)([O-])C=1C=NC(=NC1)N1C[C@H](CCC1)N[C@H]1[C@@H](CCCC1)N | C15H24N6O2
product | 1-((1R,2R)-2-((S)-1-(5-Nitropyrimidin-2-yl)piperidin-3-ylamino)cyclohexyl)-3-phenylurea | 0.031 mmol, 17.5 mg, 51.5% yield | [N+](=O)([O-])C=1C=NC(=NC1)N1C[C@H](CCC1)N[C@H]1[C@@H](CCCC1)NC(=O)NC1=CC=CC=C1 | C22H29N7O3
